US08211908B2
A solution of 0.90 g of 7-methyl-3,4-dihydro-1,8-naphthyridin-2(1H)-one in 150 mL of dioxane was heated under reflux while dividedly adding 25.7 g of selenium dioxide, and the mixture was stirred for 10 days. The insoluble substance was filtered off with celite, and the solvent was distilled off under reduced pressure. To the resultant residue, 2-propanol was added, and the solid was filtered off. The solid thus obtained was purified by silica gel column chromatography using an eluent of chloroform:methanol=20:1, and ethyl acetate was added thereto, and the solid was filtered off to obtain 0.48 g of 7-oxo-7,8-dihydro-1,8-naphthyridine-2-carbaldehyde as a light orange solid.

reactant | 7-methyl-3,4-dihydro-1,8-naphthyridin-2(1H)-one | 0.90 g | CC1=CC=C2CCC(NC2=N1)=O | C9H10N2O
reactant | selenium dioxide | 25.7 g | [Se](=O)=O | O2Se
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 7-oxo-7,8-dihydro-1,8-naphthyridine-2-carbaldehyde | 0.48 g | O=C1C=CC=2C=CC(=NC2N1)C=O | C9H6N2O2
